US06991798B1
A solution of 4-(4-iodophenyl)butyric acid (0.86M) and dimethylformamide was treated with 2 eq of potassium carbonate, 1.5 eq of 2-hydroxythiophenol and a catalytic amount of cuperic acetate (0.01 eq). The reaction mixture was refluxed for 18 hr, cooled to 25 C, acidified with aqueous acid and extracted with ethyl acetate. The organic phase was concentrated. The residue was purified by flash chromatography using ethyl acetate/hexane as eluant to give 4-(4-(2-hydroxyphenyl)thiophenyl)butyric acid.

reactant | 4-(4-iodophenyl)butyric acid | 0.86M | IC1=CC=C(C=C1)CCCC(=O)O | C10H11IO2
reactant | potassium carbonate | 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxythiophenol | 1.5 eq | OC1=C(C=CC=C1)S | C6H6OS
reactant | acetate | 0.01 eq | C(C)(=O)[O-]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-(2-hydroxyphenyl)thiophenyl)butyric acid | OC1=C(C=CC=C1)SC1=CC=C(C=C1)CCCC(=O)O | C16H16O3S
